US05703240
5-(5-Methanesulfonyl-tetrazol-1-yl)-2-methoxy-benzaldehyde
1-(3-[1,3]Dioxolan-2-yl-4-methoxy-phenyl)-5-methanesulfonyl-1H-tetrazole (800 mg) in tetrahydrofuran (13 ml) and hydrochloric acid (2N, 7.5 ml) was stirred at room temperature for 1.5 h. The solution was basified with sodium bicarbonate solution (8%), saturated with brine (50 ml), extracted with ether (3×50 ml), dried (N2SO4) and evaporated to give the title compound as an orange solid (307 mg). T.l.c. (Ethyl acetate/cyclohexane (1:1)), Rf=0.5

reactant | 1-(3-[1,3]Dioxolan-2-yl-4-methoxy-phenyl)-5-methanesulfonyl-1H-tetrazole | 800 mg | O1C(OCC1)C=1C=C(C=CC1OC)N1N=NN=C1S(=O)(=O)C | C12H14N4O5S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 2N, 7.5 ml | Cl | ClH
solvent | brine | 50 ml | [Cl-].[Na+].O
product | 5-(5-Methanesulfonyl-tetrazol-1-yl)-2-methoxy-benzaldehyde | 307 mg | CS(=O)(=O)C1=NN=NN1C=1C=CC(=C(C=O)C1)OC | C10H10N4O4S
